US07381732B2
2-[6-(2′-methanesulfonyl-biphenyl-4-yl)-7-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-pyrazolo[3,4-c]pyridin-1-yl]-5-methoxy-benzamide
Part C: 2-[6-(2′-Methanesulfonyl-biphenyl-4-yl)-7-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-pyrazolo[3,4-c]pyridin-1-yl]-5-methoxy-benzoyl chloride (0.10 mmol) was dissolved in dry dichloromethane (1 mL) under a nitrogen atmosphere, and a stream of ammonia gas was introduced for 30 sec. The solvent was evaporated, and the residue was purified by reverse phase HPLC to give the title compound as a colorless solid. MS (ES+) 607.1 (M+Na)+(100%); 1H NMR (DMSO-d6) δ 8.08 (d, 1H, J=6.6 Hz), 7.79-7.34 (m, 10H), 7.16 (d, 1H, J=2.9 Hz), 7.09 (dd, 1H, J=8.5, 2.6), 4.11 (t, 2H, J=6.4 Hz), 3.84 (s, 3H), 3.11 (t, 2H, J=6.4), 2.81 (s, 3H).

reactant | 2-[6-(2′-Methanesulfonyl-biphenyl-4-yl)-7-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-pyrazolo[3,4-c]pyridin-1-yl]-5-methoxy-benzoyl chloride | 0.10 mmol | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=C(C(=O)Cl)C=C(C=C2)OC)C(F)(F)F)=O | C28H21ClF3N3O5S
reactant | ammonia | N | H3N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2-[6-(2′-methanesulfonyl-biphenyl-4-yl)-7-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-pyrazolo[3,4-c]pyridin-1-yl]-5-methoxy-benzamide | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=C(C(=O)N)C=C(C=C2)OC)C(F)(F)F)=O | C28H23F3N4O5S
